US08809525B2
3-(Methylsulfanyl)-5-(2,4-difluorophenyl)-1,2,4-triazine (1.00 g, 78%) was prepared from methyl hydrazinecarbimidothioate (0.63 g, 6.0 mmol) and 2,4-difluorophenylglyoxal monohydrate (1.00 g, 6.0 mmol) according to the general procedure of Preparation 2.

reactant | methyl hydrazinecarbimidothioate | 6.0 mmol, 0.63 g | N(N)C(=N)SC | C2H7N3S
reactant | 2,4-difluorophenylglyoxal monohydrate | 6.0 mmol, 1.00 g | O.FC1=C(C=CC(=C1)F)C(=O)C=O
product | 3-(Methylsulfanyl)-5-(2,4-difluorophenyl)-1,2,4-triazine | 1.00 g, 78% | CSC=1N=NC=C(N1)C1=C(C=C(C=C1)F)F | C10H7F2N3S
